US04405628
1,3-Diacetyl-1,3-dihydro-4-ethyl-5-[2-methoxy(thiobenzoyl)]-2H-imidazole-2-one
In 100 ml Toluene are suspended 10 g of 1,3-diacetyl-1,3-dihydro-4-ethyl-5-(2-methoxybenzoyl)-2H-imidazole-2-one and 20 g phosphorus pentasulfate. The mixture is refluxed 6 hours and the solvent evaporated to yield the title compound.

reactant | 1,3-diacetyl-1,3-dihydro-4-ethyl-5-(2-methoxybenzoyl)-2H-imidazole-2-one | 10 g | C(C)(=O)N1C(N(C(=C1C(C1=C(C=CC=C1)OC)=O)CC)C(C)=O)=O | C17H18N2O5
reactant | phosphorus pentasulfate | 20 g | S(=O)(=O)([O-])[O-].S(=O)(=O)(O)O.S(=O)(=O)(O)O.S(=O)(=O)(O)O.S(=O)(=O)([O-])O.[P+3]
solvent | Toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 1,3-Diacetyl-1,3-dihydro-4-ethyl-5-[2-methoxy(thiobenzoyl)]-2H-imidazole-2-one | C(C)(=O)N1C(N(C(=C1C(C1=C(C=CC=C1)OC)=S)CC)C(C)=O)=O | C17H18N2O4S
